US08071592B2
(a) Phenylmethyl 4-[(6,7-dihydro[1,4]dioxino[2,3-c]pyridazin-3-ylmethyl)amino]-1-piperidinecarboxylate
A mixture of phenylmethyl 4-amino-1-piperidinecarboxylate (for a synthesis see WO 2004/058144 Example 99(e)) (14.4 g crude, equivalent to 11 g, 47 mmol) and 6,7-dihydro[1,4]dioxino[2,3-c]pyridazine-3-carbaldehyde (for a preparation see Example 6(e)) (6.46 g, 39 mmol) in DCM (200 ml) and MeOH (10 ml) was stirred for 4 h at rt, then cooled in ice as sodium triacetoxyborohydride (12.4 g) was added over 15 min. After stirring for another 2 h, the mixture was treated with aqueous sodium bicarbonate to neutralise. The aqueous phase was extracted with DCM and the organic fractions were dried and evaporated. Chromatography on silica (750 g), eluting with 0-10% MeOH/DCM, gave the product (11.1 g, 62%).

reactant | phenylmethyl 4-amino-1-piperidinecarboxylate | NC1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C13H18N2O2
reactant | 6,7-dihydro[1,4]dioxino[2,3-c]pyridazine-3-carbaldehyde | N1=NC(=CC2=C1OCCO2)C=O | C7H6N2O3
reactant | sodium triacetoxyborohydride | 12.4 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | DCM | 200 ml | C(Cl)Cl | CH2Cl2
solvent | MeOH | 10 ml | CO | CH4O
product | Phenylmethyl 4-[(6,7-dihydro[1,4]dioxino[2,3-c]pyridazin-3-ylmethyl)amino]-1-piperidinecarboxylate | 11.1 g, 62% | N1=NC(=CC2=C1OCCO2)CNC2CCN(CC2)C(=O)OCC2=CC=CC=C2 | C20H24N4O4
